* G:\My Drive\Graduate Reserach\LTSpice\Buck\SCBuckHybridBuckIoutLR.asc
V1 N009 0 1
R1 N009 N010 1
M1 N010 NC_01 N011 N011 NMOS
M2 N011 NC_02 N013 N013 NMOS
M3 N013 NC_03 N016 N016 NMOS
M4 N016 NC_04 0 0 NMOS
D1 N011 N010 D
D2 N013 N011 D
D3 N016 N013 D
D4 0 N016 D
C1 N011 N012 1
C2 N013 N014 1
R2 N012 N003 1
R3 N014 N007 1
L1 P001 N015 1
R4 N016 P001 1
M5 N002 NC_05 N017 N017 NMOS
D5 N017 N002 D
M6 N017 NC_06 N005 N005 NMOS
D6 N005 N017 D
M7 N015 NC_07 N002 N002 NMOS
D7 N002 N015 D
C3 P002 N017 1
R5 N015 P002 1
M8 N007 NC_08 0 0 NMOS
D8 0 N007 D
M9 N003 NC_09 0 0 NMOS
D9 0 N003 D
L2 P003 N001 1
R6 N003 P003 1
M10 N002 NC_10 N004 N004 NMOS
D10 N004 N002 D
M11 N004 NC_11 N005 N005 NMOS
D11 N005 N004 D
M12 N001 NC_12 N002 N002 NMOS
D12 N002 N001 D
C4 P004 N004 1
R7 N001 P004 1
L3 P005 N006 1
R8 N007 P005 1
M13 N002 NC_13 N008 N008 NMOS
D13 N008 N002 D
M14 N008 NC_14 N005 N005 NMOS
D14 N005 N008 D
M15 N006 NC_15 N002 N002 NMOS
D15 N002 N006 D
C5 P006 N008 1
R9 N006 P006 1
C6 N002 N018 1
R10 N018 N005 1
I1 N002 N005 1
L4 N019 0 1
R11 N005 N019 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
