* G:\My Drive\Graduate Reserach\LTSpice\Buck\SCBuckHybridBuckIoutLR.asc
V1 N008 N013 1
R1 N008 N009 1
M1 N009 NC_01 N011 N011 NMOS
M2 N011 NC_02 N014 N014 NMOS
M3 N014 NC_03 N018 N018 NMOS
M4 N018 NC_04 0 0 NMOS
M5 N002 NC_05 N019 N019 NMOS
M6 N019 NC_06 0 0 NMOS
M7 N016 NC_07 N002 N002 NMOS
M8 N006 NC_08 0 0 NMOS
M9 N003 NC_09 0 0 NMOS
M10 N002 NC_10 N004 N004 NMOS
M11 N004 NC_11 0 0 NMOS
M12 N001 NC_12 N002 N002 NMOS
M13 N002 NC_13 N007 N007 NMOS
M14 N007 NC_14 0 0 NMOS
M15 N005 NC_15 N002 N002 NMOS
D1 N011 N009 D
D2 N014 N011 D
D3 N018 N014 D
D4 0 N018 D
C1 N011 N012 1
C2 N014 N015 1
R2 N012 N003 1
R3 N015 N006 1
L1 P001 N016 1
R4 N018 P001 1
D5 N019 N002 D
D6 0 N019 D
D7 N002 N016 D
C3 P002 N019 1
R5 N016 P002 1
D8 0 N006 D
D9 0 N003 D
L2 P003 N001 1
R6 N003 P003 1
D10 N004 N002 D
D11 0 N004 D
D12 N002 N001 D
C4 P004 N004 1
R7 N001 P004 1
L3 P005 N005 1
R8 N006 P005 1
D13 N007 N002 D
D14 0 N007 D
D15 N002 N005 D
C5 P006 N007 1
R9 N005 P006 1
C6 N002 N020 1
R10 N020 N022 1
L4 N017 N013 1
R11 0 N017 1
L5 N021 N022 1
R12 0 N021 1
C7 N009 N010 1
R13 N010 N013 1
I1 N002 N022 1
.model D D
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
